*Spice netlist for Circuit: C:\Users\Ángela\Documents\0. PRÁCTICA 1\Parte A.CKT
VDVCC 22 0 DC 5
* BEGIN Adding ADC and/or DAC
A1 [24 25 27 29 30 32 34 35 37 39 40 42] [3 4 5 6 7 8 9 10 11 12 13 14] dac_mod
A2 [0 4 5 7 8 10 11 13 15 16 18 19] [23 26 28 31 33 36 38 41 44 46 49 51] adc_mod
A3 [43 45 47 48 50 52] [15 16 17 18 19 22] dac_mod
A4 [22] [53] adc_mod
.model dac_mod xdac
.model adc_mod xadc
* END adding ADC and/or DAC

*0=0V 1=5V
VB 4 0 DC 0V
*0=0V 1=5V
VA 5 0 DC 5V
*0=0V 1=5V
VA 8 0 DC 5V
*0=0V 1=5V
VB 7 0 DC 0V
*0=0V 1=5V
VB 10 0 DC 0V
*0=0V 1=5V
VA 11 0 DC 5V
*0=0V 1=5V
VA 13 0 DC 0V
*0=0V 1=5V
VA 16 0 DC 0V
*0=0V 1=5V
VB 15 0 DC 0V
*0=0V 1=5V
VB 18 0 DC 0V
*0=0V 1=5V
VA 19 0 DC 5V
AXOR [53 23 28 26][52 27 25 24] A74LS86
AOR [53 23 33 31][52 32 30 29] A74LS32
AND [53 23 38 36][52 37 35 34] A74LS08
ANOT [53 23 41][52 40 39] A74LS04
AN [53 23 46 44][52 45 43 42] A74LS02
ANAND [53 23 51 49][52 50 48 47] A74LS00
RS6 3 0 100
RS5 6 0 100
RS4 9 0 100
RS3 12 0 100
RS2 14 0 100
RS1 17 0 100
.SAVE V(3) V(4) V(5) V(6) V(7) V(8) V(9) V(10) V(11) V(12) V(13) V(14) V(15)
.SAVE V(16) V(17) V(18) V(19) @vb[p] vb#branch @va[p] va#branch @va[p] va#branch
.SAVE @vb[p] vb#branch @vb[p] vb#branch @va[p] va#branch @va[p] va#branch @va[p]
.SAVE va#branch @vb[p] vb#branch @vb[p] vb#branch @va[p] va#branch @rs6[p]
.SAVE @rs6[i] @rs5[p] @rs5[i] @rs4[p] @rs4[i] @rs3[p] @rs3[i] @rs2[p] @rs2[i]
.SAVE @rs1[p] @rs1[i]
*BKGND=RGB 0 0 0
*BINARY RAW FILE

* Selected Circuit Analyses :
.OP

* Models/Subcircuits Used:

*74LS86 LS Qaud 2-input XOR - type:digital pkg:DIP14 [DVCC=14;DGND=7;](A:1,2,3)(B:4,5,6)(C:9,10,8)(D:12,13,11)
.MODEL A74LS86 xsimcode(file="C:\CM60S\MODELS\LS.SCB" func=ls86 )

*74LS32 LS Quad 2-in OR - type:digital pkg:DIP14 [DVCC=14;DGND=7;](A:1,2,3)(B:4,5,6)(C:9,10,8)(D:12,13,11)
.MODEL A74LS32 xsimcode(file="C:\CM60S\MODELS\LS.SCB" func=ls32 )

*74LS08 LS Quad 2-input AND - type:digital pkg:DIP14 [DVCC=14;DGND=7;](A:1,2,3)(B:4,5,6)(C:9,10,8)(D:12,13,11)
.MODEL A74LS08 xsimcode(file="C:\CM60S\MODELS\LS.SCB" func=ls08 )

*74LS04 LS Hex Inverter - type:digital pkg:DIP14 [DVCC=14;DGND=7;](A:1,2)(B:3,4)(C:5,6)(D:9,8)(E:11,10)(F:13,12)
.MODEL A74LS04 xsimcode(file="C:\CM60S\MODELS\LS.SCB" func=ls04 )

*74LS02 LS 2-in NOR - type:digital pkg:DIP14 [DVCC=14;DGND=7;](A:1,2,3)(B:4,5,6)(C:9,10,8)(D:12,13,11)
.MODEL A74LS02 xsimcode(file="C:\CM60S\MODELS\LS.SCB" func=ls02 )

*74LS00 LS 2-in NAND - type:digital pkg:DIP14 [DVCC=14;DGND=7;](A:1,2,3)(B:4,5,6)(C:9,10,8)(D:12,13,11)
.MODEL A74LS00 xsimcode(file="C:\CM60S\MODELS\LS.SCB" func=ls00 )
.END
